US06855722B2
3-Quinolin-3-yl-3-{5-[2-(5,6,7,8-tetrahydro-[1,8]naphthyridin-2-yl)-ethoxy]-indol-1-yl}-propionic acid
The title compound was synthesized from quinolin-3-yl-propynoic acid ethyl ester and 7-[2-(1H-indol-5-yloxy)-ethyl]-3,4-dihydro-2H-[1,8]naphthyridine-1-carboxylic acid tert-butyl ester using the procedure described in Example 16, step (d1), in 81% yield as an E/Z isomeric mixture. 1H NMR (CDCl3) δ 8.90 (m, 1H), 8.14 (m, 1.3H), 8.04 (m, 0.7H), 7.79 (m, 2H), 7.58 (m, 1H), 7.30 (d, 1H, J=7.6 Hz), 7.13 (m, 2H), 6.93 (m, 1.3H), 6.75 (m, 1.7H), 6.63 (d, 0.7H, J=3.2 Hz), 6.53 (d, 0.3H, J=3.2 Hz), 6.38 (s, 0.7H), 6.32 (s, 0.3H), 4.38 (m, 2H), 4.05 (m, 2H), 3.75 (t, 2H, J=6.4 Hz), 3.19 (t, 2H, J=6.4 Hz), 2.72 (t, 2H, J=6.4 Hz), 1.91 (m, 2H), 1.51 (s, 9H), 1.13 (t, 0.9H, J=7.0 Hz), 1.05 (t, 2.1H, J=7.0 Hz).

reactant | quinolin-3-yl-propynoic acid ethyl ester | C(C)OC(C#CC=1C=NC2=CC=CC=C2C1)=O | C14H11NO2
reactant | 7-[2-(1H-indol-5-yloxy)-ethyl]-3,4-dihydro-2H-[1,8]naphthyridine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCCC2=CC=C(N=C12)CCOC=1C=C2C=CNC2=CC1 | C23H27N3O3
product | 3-Quinolin-3-yl-3-{5-[2-(5,6,7,8-tetrahydro-[1,8]naphthyridin-2-yl)-ethoxy]-indol-1-yl}-propionic acid | 81% yield | N1=CC(=CC2=CC=CC=C12)C(CC(=O)O)N1C=CC2=CC(=CC=C12)OCCC1=NC=2NCCCC2C=C1 | C30H28N4O3
